US07371747B2
To a mixture of trans-hexahydroisobenzofuran-1,3-dione (2.62 g, 17.01 mmol) and 1-amino-cyclopropanecarbonitrile hydrochloride (2.00 g, 17.01 mmol, (see O'Donnell, M. J., et al., Synthesis, 1984, 127-128) in dichloromethane (100 mL) at −10° C. was added triethylamine (5.22 mL, 37.43 mmol). The reaction mixture was allowed to warm to room temperature overnight. The solvent was evaporated and the residue was dissolved in tetrahydrofuran (80 mL), and cooled to −10° C. Isobutyl chloroformate (2.21 mL), 17.01 mmol) was added. After 15 min., the solution was filtered (20 mL tetrahydrofuran wash) and the filtrates were poured slowly into a solution of NaBH4 (1.28 g, 34.02 mmol) in water (100 mL) at 0° C. The reaction mixture was stirred for 1 h and then saturated aqueous sodium hydrogen carbonate (100 mL) and ethyl acetate (150 mL) were added. The reaction mixture was stirred vigorously for 1 h. The organic phase was separated, washed with brine, the aqueous phases were combined, extracted with ethyl acetate, then the combined organics were dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was recrystallized from ethyl acetate/hexane to give (1-cyanocyclopropyl)-2-hydroxymethyl-cyclohexane-carboxamide.

reactant | trans-hexahydroisobenzofuran-1,3-dione | 17.01 mmol, 2.62 g | C1(OC([C@@H]2CCCC[C@@H]12)=O)=O | C8H10O3
reactant | 1-amino-cyclopropanecarbonitrile hydrochloride | Cl.NC1(CC1)C#N
reactant | triethylamine | 37.43 mmol, 5.22 mL | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 34.02 mmol, 1.28 g | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (1-cyanocyclopropyl)-2-hydroxymethyl-cyclohexane-carboxamide | C(#N)C1(CC1)C1(C(CCCC1)CO)C(=O)N | C12H18N2O2
